US08835672B2
(S)-1-chloro-1-oxopropan-2-yl acetate (0.75 ml, 5.91 mmol) was added drop-wise to a solution of 5-amino-2,4,6-triiodoisophthalic acid (1.0 g, 1.79 mmol) in DMA (5 ml). The resulting mixture was stirred at about 50° C. for 5 hours and 20 minutes. 80 ml of water was added to the reaction mixture at room temperature after which the suspension formed was cooled to a temperature between 0° C. and 5° C. and stirred for 25 minutes at this temperature. The suspension was filtered and the solid washed with water. The product was dried in a vacuum oven at 40° C. to yield (S)-5-(2-acetoxypropanamido)-2,4,6-triiodoisophthalic acid (0.695 g, 1.03 mmol). The MS, 1H-NMR and 13C-NMR data are consistent with the structure for (S)-5-(2-acetoxypropanamido)-2,4,6-triiodoisophthalic acid.

reactant | (S)-1-chloro-1-oxopropan-2-yl acetate | 5.91 mmol, 0.75 ml | C(C)(=O)O[C@H](C(=O)Cl)C | C5H7ClO3
reactant | 5-amino-2,4,6-triiodoisophthalic acid | 1.79 mmol, 1.0 g | NC=1C(=C(C(=C(C(=O)O)C1I)I)C(=O)O)I | C8H4I3NO4
reactant | water | 80 ml | O | H2O
solvent | DMA | 5 ml | CC(=O)N(C)C | C4H9NO
product | (S)-5-(2-acetoxypropanamido)-2,4,6-triiodoisophthalic acid | 1.03 mmol, 0.695 g | C(C)(=O)O[C@H](C(=O)NC=1C(=C(C(=C(C(=O)O)C1I)I)C(=O)O)I)C | C13H10I3NO7
